US08198456B2
3-Amino-5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-1H-indazole-1-carboxylic acid tert-butyl ester (16.1 g, 41.23 mmol), from Synthetic Example 18, was reacted with (tert-butyl-dimethyl-silanyloxy)-acetaldehyde (CAS 102191-92-4, obtained from Aldrich, 10.06 g, 58 mmol), according to the procedure detailed in Synthetic Example 19. The crude 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethylamino]-5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-indazole-1-carboxylic acid tert-butyl ester thus obtained was used without further purification in the next step.

reactant | 3-Amino-5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-1H-indazole-1-carboxylic acid tert-butyl ester | 41.23 mmol, 16.1 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N)N | C21H22N6O2
reactant | (tert-butyl-dimethyl-silanyloxy)-acetaldehyde | 58 mmol, 10.06 g | C(C)(C)(C)[Si](OCC=O)(C)C | C8H18O2Si
product | 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethylamino]-5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-indazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N)NCCO[Si](C)(C)C(C)(C)C | C29H40N6O3Si
